US07585874B2
6-Fluoro-2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine
As described for Example 2, 4-(bromoacetyl)-5-methyl-3-phenylisoxazole (commercially available) (112 mg, 0.4 mmol) was converted, using 2-amino-5-fluoropyridine instead of 2-amino-3-methylpyridine, to the title compound (15 mg, 13%) which was obtained as a yellow solid. MS: m/e=294.3 [M+H]+.

reactant | 4-(bromoacetyl)-5-methyl-3-phenylisoxazole | BrCC(=O)C=1C(=NOC1C)C1=CC=CC=C1 | C12H10BrNO2
reactant | 2-amino-5-fluoropyridine | NC1=NC=C(C=C1)F | C5H5FN2
product | 6-Fluoro-2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine | 15 mg, 13% | FC=1C=CC=2N(C1)C=C(N2)C=2C(=NOC2C)C2=CC=CC=C2 | C17H12FN3O
